US08440662B2
Step 1: N-(2-Bromo-phenyl)-2-hydroxyimino-acetamide
To a 1000 mL round bottom flask, 2-bromoaniline (15 g, 0.0872 mol), water (400 mL), chloral hydrate (17.05 g, 0.1046 mol), hydroxylamine hydrochloride (19.25 g, 0.279 mol) and sodium sulfate (57.81 g) were added. To this reaction mixture conc. HCl (21 mL) was slowly added. The reaction mixture was stirred at 100° C. for 3 h. The white precipitate was formed and was collected by filtration. The white solid was dried to get the title compound [7 g, 33%]. 1HNMR (300 MHz, DMSO-d6): δ 12.46 (s, 1H), 9.48 (s, 1H), 7.89 (d, J=8.1 Hz, 1H), 7.69 (d, J=8.1 Hz, 1H), 7.66 (s, 1H), 7.42 (t, J=6.9 Hz, 1H), 7.15 (t, J=7.5 Hz, 1H); LC-MS (ESI): Calculated mass: 241.9; Observed mass: 243.0 [M+H]+ (RT: 0.66 min).

reactant | 2-bromoaniline | 0.0872 mol, 15 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | chloral hydrate | 0.1046 mol, 17.05 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | hydroxylamine hydrochloride | 0.279 mol, 19.25 g | Cl.NO
reactant | sodium sulfate | 57.81 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 21 mL | Cl | ClH
solvent | water | 400 mL | O | H2O
product | N-(2-Bromo-phenyl)-2-hydroxyimino-acetamide | 7 g, 33% | BrC1=C(C=CC=C1)NC(C=NO)=O | C8H7BrN2O2
